US06380242B1
(i) 6-Bromo-1-(carboxyethyl)methyl-1H-indole
To a 250 mL round bottom flask equipped with a stir bar was added 6-bromoindole (5 g; 25.5 mmol) and THF (50 mL). To this stirred solution, under argon, was added sodium bis(trimethylsilyl)amide (1M in tetrahydrofuran)(51 mL; 51 mmol). The resulting brown solution was stirred at room temperature for 1 h. At this point the mixture was cooled to −5° C., and a solution of ethyl bromoacetate (5.6 mL; 51 mmol) in THF (4 mL) added. The resulting brownish yellow precipitate was warmed to room temperature and further stirred for 1 h. The reaction mixture was diluted with ethyl acetate (100 mL) and the organic phase successively washed with water (3×50 mL) and brine (100 mL). The organic phase was separated, dried (sodium sulphate) and the solvent removed in vacuo to yield the title compound as a brown oil (crude weight: 7.3 g). 13C NMR (CDCl3): δ 168.3, 137.4, 129.4, 123.2, 122.4, 115.6, 112.2,102.7, 61.7, 47.7, 14.2.

reactant | 6-bromoindole | 25.5 mmol, 5 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | sodium bis(trimethylsilyl)amide | 51 mmol, 1M, 51 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl bromoacetate | 51 mmol, 5.6 mL | BrCC(=O)OCC | C4H7BrO2
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-1-(carboxyethyl)methyl-1H-indole | BrC1=CC=C2C=CN(C2=C1)CCCC(=O)O | C12H12BrNO2
